US07642279B2
Preparation of 4-(2-ethyl-2,3-dihydro-1H-inden-2-yl)-1H-imidazole hydrochloride (atipamezole HCl)
4-(2-ethyl-2,3-dihydro-1-hydroxy-1H-inden-2-yl)-1H-imidazole (5 kg), water (40 kg), 30% HCl (34 kg), ethanol (22 kg) and 10% palladium on charcoal (0.5 kg) are charged. The mixture is stirred under 2.2 bar overpressure of hydrogen at 80±3° C. for 12 hours. The reaction mixture is filtered at 73±2° C., the filter cake is washed with water (7 kg) and the filtrates are combined. The reaction mixture is heated to boil and 50 l of the solvent is distilled off. The solution is cooled to 0±2° C. during 2 h. The solution is seeded during the cooling procedure with atipamezole HCl at 100±5° C., 90±5° C., 80±5° C. and at 70±5° C., until the crystallization starts. The mixture is agitated for two hours at 0±2° C. The crystalline compound is recovered by centrifugation and washed with HCl-water mixture (0.34 kg HCl and 10 kg of water) and then with 18 kg of acetone. The product is dried under reduced pressure raising the temperature gradually to 85±3° C. The yield is 4.8 kg (89%).

reactant | 4-(2-ethyl-2,3-dihydro-1-hydroxy-1H-inden-2-yl)-1H-imidazole | 5 kg | C(C)C1(C(C2=CC=CC=C2C1)O)C=1N=CNC1 | C14H16N2O
reactant | water | 40 kg | O | H2O
reactant | HCl | 34 kg | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 0.5 kg | [Pd] | Pd
solvent | ethanol | 22 kg | C(C)O | C2H6O
product | 4-(2-ethyl-2,3-dihydro-1H-inden-2-yl)-1H-imidazole hydrochloride | Cl.C(C)C1(CC2=CC=CC=C2C1)C=1N=CNC1 | InChI=1S/C14H16N2.ClH/c1-2-14(13-9-15-10-16-13)7-11-5-3-4-6-12(11)8-14;/h3-6,9-10H,2,7-8H2,1H3,(H,15,16);1H
